US07517873B2
A solution of 4.34 g (0.0165 mole) of N-(1-methyl-piperidin-4-yl)-4-nitro-benzamide, 0.50 g of 10% palladium on carbon catalyst, 200 mL of ethanol and 30 mL of tetrahydrofuran was stirred under an atmosphere of hydrogen for 4 hours. The mixture was then filtered through Celite and concentrated under reduced pressure. The residue was recrystallized from methanol-ethyl acetate to give 2.21 g of 4-amino-N-(1-methyl-piperidin-4-yl)-benzamide as off-white crystals.

reactant | N-(1-methyl-piperidin-4-yl)-4-nitro-benzamide | 0.0165 mole, 4.34 g | CN1CCC(CC1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C13H17N3O3
reactant | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-amino-N-(1-methyl-piperidin-4-yl)-benzamide | 2.21 g | NC1=CC=C(C(=O)NC2CCN(CC2)C)C=C1 | C13H19N3O
